US07211572B2
Trifluoroacetic acid (1 ml) was added to 9-benzyloxy-2-[3-(2,6-dichlorophenyl)propyl]-2H-pyrido[1,2-a]pyrazine-1,8-dione (120 mg) obtained in the previous step and the mixture was left standing at room temperature for 1 hr. The solvent was evaporated, toluene was added, and the mixture was concentrated, which operations were performed twice. The obtained crystals were washed with diisopropyl ether to give 2-[3-(2,6-dichlorophenyl)propyl]-9-hydroxy-2H-pyrido[1,2-a]pyrazine-1,8-dione (92 mg).

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 9-benzyloxy-2-[3-(2,6-dichlorophenyl)propyl]-2H-pyrido[1,2-a]pyrazine-1,8-dione | 120 mg | C(C1=CC=CC=C1)OC=1C(C=CN2C1C(N(C=C2)CCCC2=C(C=CC=C2Cl)Cl)=O)=O | C24H20Cl2N2O3
product | 2-[3-(2,6-dichlorophenyl)propyl]-9-hydroxy-2H-pyrido[1,2-a]pyrazine-1,8-dione | 92 mg | ClC1=C(C(=CC=C1)Cl)CCCN1C(C=2N(C=C1)C=CC(C2O)=O)=O | C17H14Cl2N2O3
